US07514470B2
N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N1-(cyclopropylmethyl)-N2-propylglycinamide
Synthesized as described in example 3 using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-propylglycine and 1-cyclopropylmethane amine: 1H NMR (400 MHz, CDCl3) δ 7.62 (d, J=8.8 Hz, 1H), 6.93 (d, J=2.6 Hz, 1H), 6.77 (dd, J=8.8, 2.8 Hz, 1H), 6.00 (bs, 1H), 3.99 (s, 2H), 3.43 (t, J=7.7 Hz, 2H), 3.12 (t, J=6.8 Hz, 2H), 1.70 (m, 2H), 0.99 (t, J=7.5 Hz, 3H), 0.87 (m, 1H), 0.44 (m, 2H), 0.13 (m, 2H).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-propylglycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CCC)C(F)(F)F | C13H13F3N2O2
reactant | 1-cyclopropylmethane amine | C1(CC1)CN | C4H9N
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N1-(cyclopropylmethyl)-N2-propylglycinamide | C(#N)C1=C(C=C(C=C1)N(CC(=O)NCC1CC1)CCC)C(F)(F)F | C17H20F3N3O
